US07795262B2
Step 3. Preparation of 6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-2-morpholin-4-yl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine
To a stirred solution of 2-morpholin-4-yl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine (220 mg, 1.0 mmol) in acetonitrile (5.0 ml) is added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (216 mg, 1.0 mmol, 1.0 eq.), K2CO3 (276 mg, 2.0 mmol, 2.0 eq.) and NaI (50 mg). The resulting mixture is stirred at 35° C. overnight. Water (10.0 ml) is added to quench the reaction, and the acetonitrile is evaporated. The residue is extracted with DCM (10 ml×3), and the combined organic phase is dried over sodium sulfate and concentrated. The residue is purified by preparative silica gel flash chromatography (EtOAc/4% TEA) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 7.99 (1H, s), 3.75 (8H, s), 3.63 (4H, m), 3.54 (2H, s), 3.36 (2H, s), 2.81 (4H, m), 2.67 (1H, m), 2.27 (4H, m), 1.64˜2.07 (6H, m); MS (+VE) m/z 401.2 (M++1).

reactant | 2-morpholin-4-yl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine | 1.0 mmol, 220 mg | N1(CCOCC1)C=1N=CC2=C(N1)CCNC2 | C11H16N4O
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 1.0 mmol, 216 mg, 1.0 eq. | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 2.0 mmol, 276 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 50 mg | [Na+].[I-]
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
solvent | Water | 10.0 ml | O | H2O
product | 6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-2-morpholin-4-yl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | C1(CCC1)N1CCN(CC1)C(CN1CC2=C(N=C(N=C2)N2CCOCC2)CC1)=O | C21H32N6O2
